US04992559
Solid p-toluenesulphonyl chloride (0.88 g, 4.6 mmol) was added in small amounts to a cooled (-5° C.) solution of 3-(hydroxyethoxy)thiophene (0.6 g, 4.2 mmol) in dry pyridine (50 ml). The mixture was stirred for 10 minutes and then maintained at -20° C. for 48 hours. The mixture was then stirred with crushed ice for 5 hours. After filtration, the solid was recrystallised twice from hot hexane to give 3-(toluenesulphonylethoxy)thiophene as a white crystalline product, (1.0 g, 83%) M.p. 76°-77° C.; (Found: C, 52.1; H, 4.5; N, 21.8. Calculated for C13H14S2O4C, 52.3; H, 4.7; N, 21.5%); EI m/e Intensity (%): 298 (0.5 M+), 199 (57, Tosyl-OCH2CH2); δH(CDCl3) 7.3-7.7 (4H, m), 7.0 (1H, m), 6.5 (1H, m), 6.0 (1H, m), 4.2 (2H, t), 4.0 (2H, t), 2.4 (3H, s); δC(CDCl3): 21.7, 67.5, 68.0, 98.1, 119.3, 125.0, 128.0, 129.9 ppm.

reactant | p-toluenesulphonyl chloride | 4.6 mmol, 0.88 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-(hydroxyethoxy)thiophene | 4.2 mmol, 0.6 g | OCCOC1=CSC=C1 | C6H8O2S
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-(toluenesulphonylethoxy)thiophene | C=1(C(=CC=CC1)S(=O)(=O)CCOC1=CSC=C1)C | C13H14O3S2
